US04526723
Part B: Preparation of 2-(4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione
A 3 liter flask was equipped with a mechanical stirrer, reflux condenser, addition funnel, N2 inlet, and thermometer. The flask was charged with 156.77 g (0.52 mol) of ethyl 6-(4'-methylphenyl)-6-cyano-5-keto-3,3-dimethylhexanoate dissolved in 370 ml of glacial acetic acid, followed by 132 ml of water, and finally 132 ml of conventrated sulfuric acid was added. The reaction mixture was refluxed for 48 hours, cooled to room temperature and 600 ml of water and 300 ml of isopropyl ether added. This two-phase system was refluxed for 1 hour, cooled in an ice bath, and filtered. The precipitate was washed thoroughly with water and isopropyl ether, then dried overnight in a vacuum oven to give 68.09 g (57% yield) of the desired product as a pale yellow powder; m.p. 199.5°-201.5° C.

reactant | ethyl 6-(4'-methylphenyl)-6-cyano-5-keto-3,3-dimethylhexanoate | 0.52 mol, 156.77 g | CC1=CC=C(C=C1)C(C(CC(CC(=O)OCC)(C)C)=O)C#N | C18H23NO3
reactant | water | 132 ml | O | H2O
reactant | sulfuric acid | 132 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 600 ml | O | H2O
reactant | isopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 370 ml | C(C)(=O)O | C2H4O2
product | 2-(4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione | 68.09 g, 57% yield | CC1=CC=C(C=C1)C1C(CC(CC1=O)(C)C)=O | C15H18O2
